US06284923B1
4-Methoxybenzyl Pentafluorophenyl Sulfone.
To a solution of 4-methoxybenzylbromide (2.00 g, 9.95 mmol) in DMF (20 ml) at room temperature was added potassium carbonate (2.07 g, 15.0 mmol) followed by pentafluorothiophenol (1.33 ml, 9.97 mmol). After stirring at room temperature for 1 h, the reaction mixture was poured onto water and extracted with diethyl ether. The combined organic extracts were washed with 1 M NaOH, dried and concentrated to give a white solid which was used directly in the next step. The sulfide (1.11 g, 3.47 mmol) was dissolved in dichloromethane (20 ml) and cooled to 0° C. m-chloroperbenzoic acid, MCPBA, (1.20 g, 6.95 mmol) was added and the resulting mixture stirred at room temperature for 2 h. The reaction mixture was poured onto 1 M NaOH (50 ml) and extracted with dichloromethane (3×25 ml). The combined organic extracts were washed with brine, dried (MgSO4),concentrated and flash chromatographed (25:25:1, 20:20:3/hexanes:dichloromethane:ethyl acetate) to provide 413 mg (34%) of the title compound as a white solid. 1H NMR (CDCl3): d 7.18-7.22 (2H, m), 6.85-6.80 (2H, m), 4.48 (2H, s), 3.78 (3H, s). MS (EI): m/z 352 (2, M+), 121 (100). Anal Calcd. for C14H9F5O3S: C, 47.73; H, 2.58; S, 9.10. Found: C, 47.88; H, 2.66; S, 8.97.

reactant | 4-methoxybenzylbromide | 9.95 mmol, 2.00 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | potassium carbonate | 15.0 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | pentafluorothiophenol | 9.97 mmol, 1.33 ml | FC1=C(C(=C(C(=C1S)F)F)F)F | C6HF5S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | MCPBA | 6.95 mmol, 1.20 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaOH | 1 M, 50 ml | [OH-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Methoxybenzyl Pentafluorophenyl Sulfone | 413 mg, 34% | FC1=C(C(=C(C(=C1S(=O)(=O)CC1=CC=C(C=C1)OC)F)F)F)F | C14H9F5O3S
